US07691902B2
5′-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(cyanomethyl)-N,N-dimethylbiphenyl-4-carboxamide (58 mg, 0.12 mmol), H2O2 (30 wt % solution in water, 36 μL, 1.2 mmol), and NaOH (10 wt % in water, 0.15 mL, 0.42 mmol) were dissolved in MeOH (1.2 mL) and stirred at 25° C. for 2 hours. The reaction was filtered and purified by reverse phase HPLC to yield 2′-(2-amino-2-oxoethyl)-5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-N,N-dimethylbiphenyl-4-carboxamide (14 mg, 23%). ESI-MS m/z calc. 485.2, found 486.5 (M+1)+; Retention time 2.54 minutes.

reactant | 5′-(1-(Benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-(cyanomethyl)-N,N-dimethylbiphenyl-4-carboxamide | 0.12 mmol, 58 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)N(C)C)CC#N | C28H25N3O4
reactant | H2O2 | 1.2 mmol, 36 μL | OO | H2O2
reactant | NaOH | 0.42 mmol, 0.15 mL | [OH-].[Na+]
solvent | MeOH | 1.2 mL | CO | CH4O
product | 2′-(2-amino-2-oxoethyl)-5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-N,N-dimethylbiphenyl-4-carboxamide | 14 mg, 23% | NC(CC1=C(C=C(C=C1)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1)C1=CC=C(C=C1)C(=O)N(C)C)=O | C28H27N3O5
